US07759340B2
(c) 2-(2-{4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-oxo-1-piperazinyl}ethyl)-1H-isoindole-1,3(2H)-dione
A solution of 6-(methyloxy)-1,5-naphthyridin-4-yl trifluoromethanesulfonate (169 mg, 0.55 mmol) and 2-[2-(2-oxo-1-piperazinyl)ethyl]-1H-isoindole-1,3(2H)-dione (150 mg, 0.55 mmol) in EtOH (2 mL) were stirred at 85° C. After 12 h, the solution was concentrated and the residue purified via column chromatography (silica, 0-8% MeOH in DCM (1% NH4OH)) yielding the title compound (100 mg, 42%) as a light yellow solid: LCMS (ES) m/e 432 (M+H)+.

reactant | 6-(methyloxy)-1,5-naphthyridin-4-yl trifluoromethanesulfonate | 0.55 mmol, 169 mg | FC(S(=O)(=O)OC1=CC=NC2=CC=C(N=C12)OC)(F)F | C10H7F3N2O4S
reactant | 2-[2-(2-oxo-1-piperazinyl)ethyl]-1H-isoindole-1,3(2H)-dione | 0.55 mmol, 150 mg | O=C1N(CCNC1)CCN1C(C2=CC=CC=C2C1=O)=O | C14H15N3O3
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-(2-{4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-oxo-1-piperazinyl}ethyl)-1H-isoindole-1,3(2H)-dione | 100 mg, 42% | COC=1N=C2C(=CC=NC2=CC1)N1CC(N(CC1)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C23H21N5O4
